US06723722B1
A mixture of methyl 3-amino-2-([(benzyloxy)carbonyl]amino]propanoate trifluoroacetate (8.9 g) and triethylamine (30.6 ml) in dimethylformamide (89 ml) was treated by a slow dropwise addition of a solution of ethyl chloroacetate (7.8 ml) in dimethylformamide (20 ml). After stirring at room temperature for 12 hours, triethylamine (20.4 ml) was added again, and the mixture was treated by a slow dropwise addition of a solution of ethyl chloroacetate (5.2 ml) in dimethylformamide (15 ml) and stirred at room temperature for further 6 hours. The system was partitioned between water and ethyl acetate and the organic phase was washed with saturated brine, dried (MgSO2) and concentrated under reduced pressure. The residue was purified by a column chromatography on a silica gel (hexane:ethyl acetate=1:4) to obtain methyl 2-[[(benzyloxy)carbonyl]amino]-3-((2-ethoxy-2-oxoethyl)amino]propanoate (6.6 g) as a colorless oil.

reactant | methyl 3-amino-2-([(benzyloxy)carbonyl]amino]propanoate trifluoroacetate | 8.9 g | FC(C(=O)O)(F)F.NCC(C(=O)OC)NC(=O)OCC1=CC=CC=C1
reactant | triethylamine | 30.6 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroacetate | 7.8 ml | ClCC(=O)OCC | C4H7ClO2
reactant | triethylamine | 20.4 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroacetate | 5.2 ml | ClCC(=O)OCC | C4H7ClO2
solvent | dimethylformamide | 89 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 2-[[(benzyloxy)carbonyl]amino]-3-((2-ethoxy-2-oxoethyl)amino]propanoate | 6.6 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CNCC(=O)OCC | C16H22N2O6
